US08222245B2
3-[9-(5-{5-Chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid
Ethyl 3-[9-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate (Preparation 91) (28 mg, 0.058 mmol) was dissolved in ethanol (5 ml). 2M sodium hydroxide (0.144 ml, 0.288 mmol) was added and the reaction mixture stirred at 60° C. for 4 hours. The solvent was evaporated and the reaction mixture diluted with water, neutralised with 2M hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water, dried and evaporated to give the product as a white solid (26 mg).

reactant | Ethyl 3-[9-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoate | 0.058 mmol, 28 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)CCC(=O)OCC | C24H27ClN4O5
reactant | sodium hydroxide | 0.288 mmol, 2M, 0.144 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[9-(5-{5-Chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-2,3-dihydro-1,4-benzoxazepin-4(5H)-yl]propanoic acid | 26 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CN(CCOC21)CCC(=O)O | C22H23ClN4O5
